US08461162B2
4-{6-[2-oxo-1-(2-piperidin-1-ylethyl)-1,2-dihydropyridin-4-yl]pyrazolo[1,5-a]pyrimidin-3-yl}-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide (Scheme 2)
A mixture of 4-[6-(2-oxo-1,2-dihydropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide (0.140 g, 0.334 mmol), 1-(2-chloroethyl)piperidine hydrochloride (0.092 g, 0.5 mmol), Cs2CO3 (0.435 g, 1.34 mmol), and NaI (0.010 g, 0.067 mmol) was evacuated and flushed with argon. DMF (15 mL) was added. The mixture was stirred for 16 h at 65-70° C. and evaporated. The residue was washed on a filter with water, ether, and purified on HPLC. Yield of 4-{6-[2-oxo-1-(2-piperidin-1-ylethyl)-1,2-dihydropyridin-4-yl]pyrazolo[1,5-a]pyrimidin-3-yl}-N-(2,2,2-trifluoro ethyl)thiophene-2-carboxamide (bis-TFA salt): 0.022 g. 1H NMR (400 MHz, DMSO-d6): 1.57-1.77 (4H, m), 1.82-1.92 (2H, m), 2.90-3.02 (2H, m), 3.40-3.50 m), 4.05-4.15 (2H, m), 4.33 (2H, dd, J=6.85 Hz, J=6.85 Hz), 6.98 (1H, dd, J=7.1 Hz, J=2.2 Hz), 7.13 (1H, d, J=2.2 Hz), 7.89 (1H, d, J=7.1 Hz), 8.25 (1H, d, J=1.2 Hz), 8.50 (1H, d, J=1.2 Hz), 8.73 (1H, s), 9.11 (1H, d, J=2.2 Hz), 9.17 (1H, br s), 9.23 (1H, dd, J=6.35 Hz, J=6.35 Hz), 9.70 (1H, J=2.2 Hz). LC-MS APCI: m/z 531.1 [M+H]+.

reactant | 4-[6-(2-oxo-1,2-dihydropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide | 0.334 mmol, 0.140 g | O=C1NC=CC(=C1)C=1C=NC=2N(C1)N=CC2C=2C=C(SC2)C(=O)NCC(F)(F)F | C18H12F3N5O2S
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.5 mmol, 0.092 g | Cl.ClCCN1CCCCC1
reactant | Cs2CO3 | 1.34 mmol, 0.435 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.067 mmol, 0.010 g | [Na+].[I-]
product | 4-{6-[2-oxo-1-(2-piperidin-1-ylethyl)-1,2-dihydropyridin-4-yl]pyrazolo[1,5-a]pyrimidin-3-yl}-N-(2,2,2-trifluoroethyl)thiophene-2-carboxamide | O=C1N(C=CC(=C1)C=1C=NC=2N(C1)N=CC2C=2C=C(SC2)C(=O)NCC(F)(F)F)CCN2CCCCC2 | C25H25F3N6O2S
